US08563552B2
Synthesis of N-(pyrimidin-2-yl)-2,6-dimethylmorpholine
In a 100 mL recovery flask, 2-chloropyrimidine (1 g, 8.73 mmol), 2,6-dimethyl morpholine (cis:trans mixture, 1.106 g, 9.60 mmol), N,N-diisopropyl-N-ethylamine (1.241 g, 9.60 mmol), and ethanol (17.46 mL) were added and refluxed for seven hours. Upon completion of the reaction, the solvent was distilled off, and saturated sodium bicarbonate was added thereto. The resulting mixture was extracted with ethyl acetate twice, and the organic phase was washed with saturated brine and dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=20:1→1:2) to give the title compound (1.29 g, 76%, cis:trans mixture).

reactant | 2-chloropyrimidine | 8.73 mmol, 1 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | 2,6-dimethyl morpholine | 9.60 mmol, 1.106 g | CC1CNCC(O1)C | C6H13NO
reactant | N,N-diisopropyl-N-ethylamine | 9.60 mmol, 1.241 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethanol | 17.46 mL | C(C)O | C2H6O
product | N-(pyrimidin-2-yl)-2,6-dimethylmorpholine | 1.29 g, 76% | N1=C(N=CC=C1)N1CC(OC(C1)C)C | C10H15N3O
